US09108966B2
To a mixture of ((3R,6S)-6-(1,2,4-thiadiazol-5-yl)piperidin-3-yl)(benzyloxy)carbamic chloride HCl salt in dry DCM (15 mL) at 0° C. was added TEA (606 mg, 6.0 mmol). The mixture was stirred at rt for 2 hrs and then concentrated. The residue was purified by silica gel column chromatography (3:1 petroleum ether/EtOAc) to give (2S,5R)-6-(benzyloxy)-2-(1,2,4-thiadiazol-5-yl)-1,6-diazabicyclo[3.2.1]octan-7-one (190 mg, 51%) as a yellow solid. ESI-MS (EI+, m/z): 317 [M+H]+, 1HNMR (500 M, CDCl3): δ 8.62 (s, 1H), 7.46-7.37 (m, 5H), 5.09 (d, J=11.2 Hz, 1H), 4.92 (d, J=11.2 Hz, 1H), 4.90 (br d, J=5.5 Hz, 1H), 3.35 (m, 1H), 2.88 (br d, J=6.0 Hz, 1H), 2.79 (d, J=12.0 Hz, 1H), 2.31-2.28 (m, 2H), 2.21-2.11 (m, 1H), 1.98-1.90 (m, 1H).

reactant | ((3R,6S)-6-(1,2,4-thiadiazol-5-yl)piperidin-3-yl)(benzyloxy)carbamic chloride HCl salt | Cl.S1N=CN=C1[C@@H]1CC[C@H](CN1)N(C(=O)Cl)OCC1=CC=CC=C1
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | (2S,5R)-6-(benzyloxy)-2-(1,2,4-thiadiazol-5-yl)-1,6-diazabicyclo[3.2.1]octan-7-one | 190 mg, 51% | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C2=NC=NS2 | C15H16N4O2S
